Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Nsaids / Aspirin / Influenza Virus Vaccine
 
Attending: ___.
 
Chief Complaint:
shortness of breath, abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: Ms. ___ is a ___ year-old woman 
with a history of GBS in ___, secondary syphilis s/p tx, 
cirrhosis, polysubstance abuse, pulmonary hypertension. She now 
presents with shortness of breath and abdominal pain.  
.  
She has had baseline exertional shortness of breath since ___ 
and has been on 2L home O2. She has been short of breath with 
less than 1 block walking since then. For the past week, she has 
become even more short of breath and now can not even walk 
across the room without getting short of breath. She denies any 
fevers, chills, chest pain, or cough. She has had poor PO intake 
secondary to nausea over that same interval. She denies 
orthopnea (states she has always used 3 pillows because of 
dizziness with lying but no increased shortness of breath) and 
also denies lower extremity edema.  
.  
Her abdominal pain is chronic but worsening over the past 2 
months and is described as "knots." It is diffuse and constant. 
She has seen Dr. ___ ___ for this in the past without 
any clear etiology identified.  
.  
In the ED, initial VS: T97.8, BP 130/62, HR 67, RR 20, O2 95% on 
2L  
There was initially concern for recurrent GBS, and neurology saw 
her. The resident was initially concerned for NIDP, but after 
CXR showed a RLL infiltrate and she spoke to her attending this 
was thought to be very unlikely. She was given Levofloxacin 750 
mg IV x 1 and Vicodin x 1 and admitted for further management.  
.  
On the floor, she feels her abdominal pain and dyspnea have not 
changed. She has not yet had a bowel movement. She is passing a 
lot of gas after the Baricat. She denies cough, fever, chest 
pain. She also denies lower extremity or other weakness or 
numbness. She further denies headache, urinary symptoms, current 
nausea.
 
Past Medical History:
- pulmonary hypertension: R heart cath ___ with PA pressure 
mean 60, failed a vasoactive trial with NO. L heart cath 
demonstrated no L-sided etiology  
- asthma: mild intermittent, uses flovent consistently and 
albuterol <1x/week  
- restrictive lung disease: TLC 52% per PFTs ___  
- HTN  
- RA  
- OA  
- hx secondary syphilis s/p treatment  
- history of polysubstance abuse  
- childhood seizures  
- hepatic fibrosis, stage 2 without cirrhosis by biopsy ___. 
Thought to be secondary to history of EtOH. Patient was seen in 
___ once but subsequently failed ot follow up  
- duodenal ulcer s/p surgical repair ___  
- GBS ___: requiring MICU admission an IVIg.  
- she has been on 2L home O2 since ___ for unclear reasons  
 
Social History:
___
Family History:
Father with COPD.
 
Physical Exam:
T97.3
BP 162/105
HR 68
RR 20
02 sat 98% on 3L O2 NC

GENERAL: NAD. Oriented x3. Mood, affect appropriate. 
HEENT: Sclera anicteric.     
CARDIAC: RRR
LUNGS: Resp were unlabored, no accessory muscle use. CTAB
ABDOMEN: Soft, NT, ND.BS present
EXTREMITIES: no pedal edema

 
Pertinent Results:
___ 04:10PM   K+-4.3
___ 04:08PM   GLUCOSE-87 UREA N-12 CREAT-1.0 SODIUM-136 
POTASSIUM-5.3* CHLORIDE-104 TOTAL CO2-22 ANION GAP-15
___ 04:08PM   estGFR-Using this
___ 04:08PM   ALT(SGPT)-35 AST(SGOT)-58* LD(LDH)-499* ALK 
PHOS-113* TOT BILI-1.1
___ 04:08PM   ALBUMIN-4.4
___ 04:08PM URINE  HOURS-RANDOM
___ 04:08PM URINE  HOURS-RANDOM
___ 04:08PM URINE  UCG-NEGATIVE
___ 04:08PM URINE  GR HOLD-HOLD
___ 04:08PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 04:08PM   WBC-6.9 RBC-4.76 HGB-14.8 HCT-44.5 MCV-94 
MCH-31.0 MCHC-33.2 RDW-15.5
___ 04:08PM   NEUTS-43.3* LYMPHS-46.0* MONOS-6.0 EOS-3.5 
BASOS-1.1
___ 04:08PM   PLT COUNT-172
___ 04:08PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:08PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-1 PH-6.5 LEUK-NEG

TTE ___:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The right atrial pressure is 
indeterminate. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). There is no ventricular septal defect. The 
right ventricular cavity is markedly dilated with severe global 
free wall hypokinesis. There is abnormal septal motion/position 
consistent with right ventricular pressure/volume overload. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic regurgitation. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. Moderate [2+] 
tricuspid regurgitation is seen. There is severe pulmonary 
artery systolic hypertension. There is a trivial/physiologic 
pericardial effusion. 

CT abdomen:
IMPRESSION: 
  
1. Moderate amount of ascites in the right upper quadrant 
surrounding a 
non-distended gallbladder of uncertain etiology, question 
redistribution of 
ascites. No evidence of extravasation of oral contrast or 
extraluminal gas.  
Recommend correlation with LFTs and consider RUQ ultrasound as 
clinically 
warranted. Updated findings discussed with Dr. ___ on 
___. 
  
2. Enlarged heart, predominantly involving the right heart with 
findings of 
right heart failure. 
  
3. Interval resolution of left pleural effusion and decrease of 
right pleural 
effusion and associated bibasilar atelectasis. 
  
4. Multiple uterine fibroids. 
  
CXR:
FINDINGS: AP and lateral views of the chest were obtained. There 
is mild 
elevation of the right hemidiaphragm. Bilateral lower lobe 
patchy opacities 
are concerning for pneumonia. There may also be right middle 
lobe 
involvement. Blunting of the right costophrenic angle could be 
due to a trace 
effusion. No pneumothorax is seen. The cardiac and mediastinal 
silhouettes 
are stable. Mild prominence of the main pulmonary is again 
noted. The 
cardiac silhouette is mildly enlarged. 
  
IMPRESSION: Bibasilar opacities, worrisome for pneumonia. 

KUB:
IMPRESSION: Air-distended loops of small bowel in the mid 
abdomen without 
evidence of bowel obstruction. No evidence of free air. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with an extensive past medical 
history presenting with shortness of breath and abdominal pain.  

.  
# Shortness of breath: She has many possible reasons to be short 
of breath. Radiology was concerned for pneumonia. She does not 
have fevers/chills/cough and CT abdomen not concerning for 
pneumonia.  Did not keep patient on antibiotics. Regarding her 
underlying disease:  
1) Moderate restrictive disease with TLC 52% was identified in 
___, and the etiology has not been identified as far as I can 
tell. Her VC with bedside spirometry was stable but low on 
admission; vital capacity 1.6 L and NIF 20 with poor effort  2) 
Severe pulmonary HTN was also diagnosed and confirmed on cath in 
___. However, this was initially thought to be secondary to 
inhaled cocaine use, which she currently denies although Utox 
positive for cocaine. Crack-induced pulmonary hypertension seems 
to be mostly related to local vasocontstrictive effects and thus 
only present in the setting of active use, but there may be some 
degree of chronic granulomatous inflammation triggered by former 
use. She could also have primary pulmonary hypertension. In any 
case, she needs further outpatient evaluation of the status of 
her pulmonary hypertension and treatment if this is indeed the 
cause of her severe shortness of breath.  
3) Other possible causes of her chronic shortness of breath 
include asthma, but no wheezing and currently moving good air. 
Patient kept on home regimen of Flovent with nebs prn wheezing.  
Chronic inflammatory demyelinating mononeuropathy (CIDM) was 
also initially on the differential although, per the ED, this 
was considered unlikely after neurology attending weighed in. 
She doesn't have enough ascites on exam to make this the likely 
cause. L-sided heart failure also on the differential but less 
likely given CXR and exam.  
.
TTE was done to evaluate for evidence of persistent pulmonary 
HTN  and showed severe pulmonary HTN.  Recommend outpatient 
PFTs/pulmonary visit. Per neurology, ordered TSH (normal). 
Neurology consult also recommended outpatient thyroid US, which 
we will defer to PCP.  Continued her home regimen of Flovent, 
nebs prn wheezing (none on discharge), and O2 as needed to 
maintain O2 Sat >92%
.
#Right heart failure: Heart size enlarged on CXR.  CTabdomen 
with evidence of RHF.  BNP elevated at 3401 (has been much 
higher in past).  Patient certainly at risk for right heart 
failure secondary to chronic pulmonary HTN. TTE showed severe 
pulmonary HTN
.  
# abdominal pain: Chronic but worsening over the past few 
months. CT abdomen without any acute process. History not 
consistent with recurrence of ulcer, and patient on both PPI and 
H2 blocker. She doesn't have tense ascites causing this. The 
pain is more diffuse than what would be expected if this were 
related to her liver disease (hepatic fibrosis, stage 2 pr 
biopsy ___ on admission, nl ALT with slightly elevated AST).  
The underlying process has not been identified despite regular 
follow up with GI in ___, but the patient has been failing to 
keep her appointments over the past 6 months. Patient has 
outpatient appointments with GI including an appointment for 
endoscopy within the next month.  Currently her pain may be 
exacerbated by constipation. Alternatively, part of the pain may 
be due to uterine fibroids (seen on CT)/other gynecological 
cause.  Patient has recently had vaginal US and appears to be 
having gyn follow-up although again she has a history of missing 
appointments.   Continued carafate, ranitidine and omeprazole 
and her outpatient pain regimen (Vicodin).  Placed her on bowel 
regimen  but she did not have a BM.  She will have outpatient 
follow-up with GI previously scheduled
.  
# HTN: normotensive.  continued Metoprolol Tartrate 37.5 mg 
PO/NG BID 

.  
# neuropathy:  patient complains of numbness in her legs which 
she attributes to missing her dose of gabapentin.  able to move 
legs normally.  Neurology consulted and recommend workup with 
vit B12, MMA, and SPEP for neuropathy.  Patient has outpatient 
f/u with neurology already scheduled.  Will defer workup to 
outpatient physician. Continue gabapentin.  Will defere vit B12 
to PCP or outpatient neurology. 
.  
# FEN: regular cardiac diet  
# Prophylaxis: heparin SC  
# Access: PIV  
# Code status: presumed full  
 

 
Medications on Admission:
Gabapentin 1200mg TID
Azithromycin 500mg
Docustat
GABAPENTIN [NEURONTIN] - 800 mg Tablet - 1 Tablet(s) by mouth  
three times a day  
HYDROCODONE-ACETAMINOPHEN - 5 mg-500 mg Tablet - 1 Tablet(s) by  

mouth twice a day as needed for pain  
METOPROLOL TARTRATE - 25 mg Tablet - ___ Tablet(s) by mouth  
twice a day  
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - 2 Capsule(s) 
 
by mouth twice a day  
PHYSICAL THERAPY - - Dx: ___ Evaluation and  
Management of motor skills.  
SUCRALFATE [CARAFATE] - 1 gram/10 mL Suspension - 10 cc(s) by  
mouth four times a day  
TRAZODONE - 50 mg Tablet - 1 Tablet(s) by mouth hs  
DOCUSATE SODIUM [COLACE] - 100 mg Capsule - 1 Capsule(s) by 
mouth  
once a day  
MULTIVITAMIN - Tablet - 1 Tablet(s) by mouth once a day  
RANITIDINE HCL [ZANTAC MAXIMUM STRENGTH] - 150 mg Tablet - 1 
Vitamin D
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO once a 
day as needed for constipation.
Disp:*30 Capsule(s)* Refills:*2*
2. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) puffs Inhalation every ___ hours as needed for shortness 
of breath or wheezing.  
3. Flovent HFA 110 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation twice a day.  
4. Gabapentin 800 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
5. Hydrocodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO BID (2 times a day) as needed for pain.  
6. Metoprolol Tartrate 25 mg Tablet Sig: 1.5 Tablets PO BID (2 
times a day).  
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
8. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
9. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
10. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Clobetasol 0.05 % Foam Sig: One (1) application Topical 
twice a day.  
12. Ergocalciferol (Vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO once a week.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Acute on chronic shortness of breath
- Acute on chronic abdominal pain
- Thyroid nodule
- Cocaine abuse
- Tobacco abuse
- ___ non-compliance

Secondary:
- Pulmonary artery hypertension
- Cirrhosis NOS
- Secondary syphilis
- ___ 
- Polysubstance abuse
- Depression
- Seizures in childhood
- Duodenal ulcer s/p surgical repair ___
- S/P C-section x 4

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for shortness of breath and 
abdominal pain.  Your urine test was positive for cocaine.  You 
had a chest x-ray, an abdominal x-ray, a CT scan of the abdomen, 
and an ECHO study of the heart.  You have several follow-up 
appointments that have previously been scheduled, including 
appointments with neurology, pulmonary, and GI.  Please keep all 
appointments.  Please continue your home medications.
 
Followup Instructions:
___